US08541575B2
Step b: N-benzyl-3-(4-pyridin-4-yl-1H-pyrazol-3-yl)-benzamide
A solution of 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride (0.029 g, 0.15 mmol, 1.5 eq) in dry DCM (1 mL) and a solution of 1-hydroxybenzotriazole (0.020 g, 0.15 mmol, 1.5 eq) and DIPEA (0.064 g, 0.50 mmol, 5 eq) in dry DMF (0.1 mL) were added to 3-(4-pyridin-4-yl-1H-pyrazol-3-yl)-benzoic acid hydrochloride (0.030 g, 0.10 mmol, 1 eq) in dry DMF (0.200 ml). Benzylamine (2 eq) was added to the reaction mixture, which was stirred at room temperature for 24 h. Distilled water (1.5 mL) was poured into the suspension that was stirred for 1 h at room temperature and the organic layer was separated by filtration through Alltech Separator Tube. The solvent was evaporated and reverse phase purification of the crude afforded the final product as a solid.

reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 0.15 mmol, 0.029 g, 1.5 eq | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 0.15 mmol, 0.020 g, 1.5 eq | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | DIPEA | 0.50 mmol, 0.064 g, 5 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-(4-pyridin-4-yl-1H-pyrazol-3-yl)-benzoic acid hydrochloride | 0.10 mmol, 0.030 g, 1 eq | Cl.N1=CC=C(C=C1)C=1C(=NNC1)C=1C=C(C(=O)O)C=CC1
reactant | Benzylamine | 2 eq | C(C1=CC=CC=C1)N | C7H9N
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.200 ml | CN(C)C=O | C3H7NO
solvent | water | 1.5 mL | O | H2O
product | N-benzyl-3-(4-pyridin-4-yl-1H-pyrazol-3-yl)-benzamide | C(C1=CC=CC=C1)NC(C1=CC(=CC=C1)C1=NNC=C1C1=CC=NC=C1)=O | C22H18N4O
